US05212320
To a suspension of aluminum chloride (6.67 g) in dichloromethane (70 ml) was added hexanoyl chloride (7.0 ml) at 0° C. After the mixture was stirred at 0° C. for 15 minutes, isobutylbenzene (7.9 ml) was added to the mixture. The mixture was stirred at 0° C. for 30 minutes and poured into ice water. The separated organic layer was washed with water, aqueous sodium bicarbonate and brine. The solution was dried over magnesium sulfate and evaporated to give 4'-isobutylhexanophenone (10.52 g) as a colorless oil.

reactant | aluminum chloride | 6.67 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hexanoyl chloride | 7.0 ml | C(CCCCC)(=O)Cl | C6H11ClO
reactant | isobutylbenzene | 7.9 ml | C(C(C)C)C1=CC=CC=C1 | C10H14
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 4'-isobutylhexanophenone | 10.52 g | C(C(C)C)C1=CC=C(C=C1)C(CCCCC)=O | C16H24O
